US09428509B2
5-(2-(4-(Dimethylcarbamoyl)-2-methylphenylamino)-4-(tetrahydro-2H-pyran-4-yloxy)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-N-methylpicolinamide
5-(2-Chloro-4-(tetrahydro-2H-pyran-4-yloxy)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-N-methylpicolinamide (1 equiv), 4-amino-N,N,3-trimethylbenzamide (1 equiv), (9,9-dimethyl-9H-xanthene-4,5-diyl)bis(diphenylphosphine) (0.2 equiv), cesium carbonate (2 equiv), tris(dibenzylideneacetone)dipalladium(0) (0.1 equiv) and 1,4-dioxane (0.2 M) were combined in a microwave vial and irradiated heated at 150° C. for 30 min. The mixture was concentrated and purified by flash chromatography 0-55% (hexane:ethyl acetate—800 mL), followed by 5-15% B (DCM:MeOH—800 mL) in the same run. Fractions were combined, concentrated and the compound was deprotected according to General Procedure A. The reaction mixture was concentrated and purified to give the title compound (21% yield). 1H NMR (400 MHz, METHANOL-d4) δ ppm 8.92 (d, J=1.95 Hz, 1H), 8.20 (dd, J=7.81, 1.56 Hz, 1H), 8.07 (dd, J=16.59, 8.39 Hz, 2H), 7.22-7.31 (m, 3H), 5.49 (s, 1H), 3.78-3.88 (m, 2H), 3.52-3.61 (m, 2H), 3.07 (s, 6H), 2.96 (s, 3H), 2.35 (s, 3H), 2.08 (d, J=13.28 Hz, 2H), 1.73-1.84 (m, 2H). MS (ESI) m/z 530.0 [M+1]+.

reactant | 5-(2-Chloro-4-(tetrahydro-2H-pyran-4-yloxy)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-N-methylpicolinamide | 1 equiv | ClC=1N=C(C2=C(N1)N(C=C2C=2C=CC(=NC2)C(=O)NC)COCC[Si](C)(C)C)OC2CCOCC2 | C24H32ClN5O4Si
reactant | 4-amino-N,N,3-trimethylbenzamide | 1 equiv | NC1=C(C=C(C(=O)N(C)C)C=C1)C | C10H14N2O
reactant | (9,9-dimethyl-9H-xanthene-4,5-diyl)bis(diphenylphosphine) | 0.2 equiv | CC1(C2=CC=CC(=C2OC=2C(=CC=CC12)P(C1=CC=CC=C1)C1=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1)C | C39H32OP2
reactant | cesium carbonate | 2 equiv | C([O-])([O-])=O.[Cs+].[Cs+]
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.1 equiv | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | 1,4-dioxane | 0.2 M | O1CCOCC1 | C4H8O2
product | 5-(2-(4-(Dimethylcarbamoyl)-2-methylphenylamino)-4-(tetrahydro-2H-pyran-4-yloxy)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-N-methylpicolinamide | 21% yield | CN(C(=O)C1=CC(=C(C=C1)NC=1N=C(C2=C(N1)NC=C2C=2C=CC(=NC2)C(=O)NC)OC2CCOCC2)C)C | C28H31N7O4
